US06043254
(b) 2-acetylamino-5-methyl-4-(4-nitro-phenyl)-imidazole
Prepared analogously to Example D by reacting 2-acetylamino-5-methyl-4-phenyl-imidazole with ammonium nitrate in concentrated sulphuric acid.

reactant | 2-acetylamino-5-methyl-4-phenyl-imidazole | C(C)(=O)NC=1NC(=C(N1)C1=CC=CC=C1)C | C12H13N3O
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-acetylamino-5-methyl-4-(4-nitro-phenyl)-imidazole | C(C)(=O)NC=1NC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C | C12H12N4O3
